US06900216B2
A solution of 2-bromobutyryl chloride (8 g) in dichloromethane (15 ml) was added dropwise under nitrogen at ambient temperature to a stirred suspension of anhydrous aluminium chloride (12 g) in dichloromethane (100 ml). When the addition was complete, a solution of 5-chlorobenzo[b]thiophene (5 g; prepared in a manner similar to that described in J. Heterocyclic Chem., 1988, 25, 1271) in dichloromethane (30 ml) was added dropwise, then the mixture was stirred at ambient temperature for 1 hour and added to ice-cold water (500 ml). The mixture was stirred at ambient temperature for 30 minutes then the product was extracted into dichloromethane (100 ml). The extract was washed with water (2×30 ml) and saturated aqueous sodium chloride solution (2×30 ml), then it was dried (Na2SO4) and the solvent was removed in vacuo. The residue was purified by repeated (5-fold) flash chromatography over silica using a 19:1 mixture of petroleum ether (b.p. 60-80° C.) and ethyl acetate as eluant. Appropriate fractions were combined and the solvents removed in vacuo to give 2-bromo-1-(5-chlorobenzo[b]thiophen-2-yl)butan-1-one (1.04 g) as an off-white solid which was used without further purification.

reactant | 2-bromobutyryl chloride | 8 g | BrC(C(=O)Cl)CC | C4H6BrClO
reactant | aluminium chloride | 12 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 5-chlorobenzo[b]thiophene | ClC1=CC2=C(SC=C2)C=C1 | C8H5ClS
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 2-bromo-1-(5-chlorobenzo[b]thiophen-2-yl)butan-1-one | 1.04 g | BrC(C(=O)C1=CC2=C(S1)C=CC(=C2)Cl)CC | C12H10BrClOS
